US06303593B1
1-Methoxycarbonyl-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(R)-(3-thienyl)pyrrolidine
To a solution of 4.35 g (10 mmol) of 1-benzyl-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(R)-(3-thienyl)pyrrolidine in 20 mL of THF at 0° C. was added 3.7 mL (26 mmol) of methylchloroformate and the reaction mixture was warmed to rt and stirred for 2 h. The reaction mixture was concentrated and the residue was purified by chromatography (silica, acetone: hexanes, 1:3) to give 3.5 g of the title compound.

reactant | 1-benzyl-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(R)-(3-thienyl)pyrrolidine | 10 mmol, 4.35 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CSC=C1)CN1CCC(CC1)C1=CC=C(C=C1)F | C27H31FN2S
reactant | methylchloroformate | 26 mmol, 3.7 mL | COC(=O)Cl | C2H3ClO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-Methoxycarbonyl-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(R)-(3-thienyl)pyrrolidine | 3.5 g | COC(=O)N1C[C@H]([C@@H](C1)C1=CSC=C1)CN1CCC(CC1)C1=CC=C(C=C1)F | C22H27FN2O2S
